US06586422B2
A mixture of 150 mg (0.50 mmol) of 3-methylsulfanyl-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile as prepared in example 1b and 74 mg (1.0 mmol) of aminomethyl-cyclopropane in 5 ml of dioxane was stirred at 120° C. overnight. The solution was evaporated under reduced pressure and the residue was chromatographed on silica gel with a 98:2 v/v mixture of dichloromethane and methanol as the eluent. There were obtained 57 mg (35% of theory) of 3-(cyclopropylmethyl-amino)-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile as a white solid; MS: 321 (M+H)+.

reactant | 3-methylsulfanyl-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile | 0.50 mmol, 150 mg | CSC=1N=NC(=C(N1)N1CCC2=C(CC1)C=CC=C2)C#N | C15H15N5S
reactant | aminomethyl-cyclopropane | 1.0 mmol, 74 mg | NCC1CC1 | C4H9N
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 3-(cyclopropylmethyl-amino)-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile | 57 mg, 35% | C1(CC1)CNC=1N=NC(=C(N1)N1CCC2=C(CC1)C=CC=C2)C#N | C18H20N6
